US09388189B2
Ethyl 4-chloro-6-((4-methoxybenzyl)amino)pyrimidine-5-carboxylate
(E)-Ethyl 3-((E)-(aminomethylene)amino)-2-cyano-3-((4-methoxybenzyl)amino)acrylate (1.24 g, 3.49 mmol) was dissolved in 23 mL hydrochloride acid (4M in dioxane, 90.64 mmol) and the mixture was stirred at room temperature overnight. The mixture was poured into 400 mL water and extracted with ethyl acetate. The organic phase was washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The crude was purified using SP1® Purification System (0% to 25%, hexane-ethyl acetate) to give 376 mg (34% yield) of the title compound as a white solid.

reactant | (E)-Ethyl 3-((E)-(aminomethylene)amino)-2-cyano-3-((4-methoxybenzyl)amino)acrylate | 3.49 mmol, 1.24 g | N\C=N\C(=C(\C(=O)OCC)/C#N)\NCC1=CC=C(C=C1)OC | C15H18N4O3
reactant | hydrochloride | 90.64 mmol, 4M, 23 mL | Cl | ClH
solvent | water | 400 mL | O | H2O
product | Ethyl 4-chloro-6-((4-methoxybenzyl)amino)pyrimidine-5-carboxylate | 376 mg, 34% yield | ClC1=NC=NC(=C1C(=O)OCC)NCC1=CC=C(C=C1)OC | C15H16ClN3O3
